US07786132B2
(i) 1-(Thiophen-2-ylmethyl)piperidine
2-Thiophenecarboxaldehyde (1 g, 8.9 mmol) was dissolved in dichloroethane and treated with piperidine and sodium triacetoxyborohydride. The reaction was stirred at room temperature overnight. The reaction was diluted with dichloromethane and aqueous saturated sodium bicarbonate. The organic layer was separated out, washed with water and brine and dried with sodium sulfate. The volatile were removed in vacuo and the residue was purified by column chromatography on silica gel using a gradient of 2 to 8% of methanol in dichloromethane to obtain a brown oil. Yield=1.5 g. MS (M+H)+ 182.

reactant | 2-Thiophenecarboxaldehyde | 8.9 mmol, 1 g | S1C(=CC=C1)C=O | C5H4OS
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(Thiophen-2-ylmethyl)piperidine | S1C(=CC=C1)CN1CCCCC1 | C10H15NS
